US07319152B2
5-(3,5-dichlorophenyl)-3,3-dimethylindan-1-one
The title compound was prepared from trifluoro-methanesulfonic acid 3,3-dimethyl-1-oxo-indan-5-yl ester and 3,5-dichlorophenyl boronic acid according to the procedure described in example 21. MS (ES) m/z 305.1; HRMS: calcd for C17H14Cl2O+H+, 305.04944; found (ESI, [M+H]+), 305.0509.

reactant | trifluoro-methanesulfonic acid 3,3-dimethyl-1-oxo-indan-5-yl ester | CC1(CC(C2=CC=C(C=C12)OS(=O)(=O)C(F)(F)F)=O)C | C12H11F3O4S
reactant | 3,5-dichlorophenyl boronic acid | ClC=1C=C(C=C(C1)Cl)B(O)O | C6H5BCl2O2
product | 5-(3,5-dichlorophenyl)-3,3-dimethylindan-1-one | ClC=1C=C(C=C(C1)Cl)C=1C=C2C(CC(C2=CC1)=O)(C)C | C17H14Cl2O
